US05475034
2-Amino-3-benzoyl-5-chloro-α-(methylthio)-phenylacetamide, Compound 4
To a cold (-70° C.) solution of 12.77 g (0.055 mole) of 2-amino-5-chlorobenzophenone in 300 mL of methylene chloride, under nitrogen atmosphere, was added 6.0 g (0.552 mole) of t-butylhypochlorite in 20 mL of methylene chloride. After the reaction was stirred for an additional 15 min, a suspension of 5.8 g (0.055 mole) of α-(methylthio)acetamide in 150 mL of methylene chloride was added. The mixture was stirred at -65° C. for 1 h. Triethylamine (5.6 g, 0.055 mole) was added and the solution was allowed to warm to room temperature. The reaction mixture was extracted with water and the organic layer dried over magnesium sulfate. The volume of the solution was reduced in vacuo to about 200 mL and the product crystallized as a yellow solid, m.p. 173.5°-174.5° C. Yield was 6.86 g (37.3%).

reactant | 2-amino-5-chlorobenzophenone | 0.055 mole, 12.77 g | NC1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)Cl | C13H10ClNO
reactant | t-butylhypochlorite | 0.552 mole, 6.0 g | C(C)(C)(C)OCl | C4H9ClO
reactant | α-(methylthio)acetamide | 0.055 mole, 5.8 g | CSCC(=O)N | C3H7NOS
reactant | Triethylamine | 0.055 mole, 5.6 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 300 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | 2-Amino-3-benzoyl-5-chloro-α-(methylthio)-phenylacetamide | NC1=C(C=C(C=C1C(C1=CC=CC=C1)=O)Cl)C(C(=O)N)SC | C16H15ClN2O2S
